US07205318B2
3-Chloro-1H-indole-6-carboxylic acid (200 mg) was mixed with 3 mL of SOCl2. The mixture was refluxed for 1 h and evaporated to dryness. Benzene (2 mL) was added and evaporated twice in order to eliminate residual SOCl2. The dark oil was triturated in ether/CH2Cl2 to yield 3-chloro-1H-indole-6-carbonyl chloride as a dark solid, which was used without further purification.

reactant | 3-Chloro-1H-indole-6-carboxylic acid | 200 mg | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
reactant | SOCl2 | 3 mL | O=S(Cl)Cl | Cl2OS
product | 3-chloro-1H-indole-6-carbonyl chloride | ClC1=CNC2=CC(=CC=C12)C(=O)Cl | C9H5Cl2NO
